US07566788B2
N-{2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}acetamide
N-(3-Amino-4-{[(4,4-difluorocyclohexyl)methyl]amino}phenyl)acetamide (1.32 g, 4.44 mmol) was dissolved in 100 mL of DCM containing DMAP (108 mg, 0.89 mmol). Trimethylacetyl chloride (0.60 mL, 4.88 mmol) was added dropwise and the solution was stirred at rt for 2 h. The solution washed with saturated aqueous NaHCO3 solution, saturated aqueous NaCl solution and dried over anhydrous Na2SO4. Part of the product precipitated during the washings and was filtered. The organic phase was evaporated and combined with the precipitate. The product was dissolved in 30 mL of AcOH and placed in 6 sealed tubes (5 mL/tube). Each tube was heated at 150° C. in a Personal Chemistry microwaves instrument for 2.5 h. The fractions were pooled and the solvent was evaporated. The product was dissolved in EtOAc and washed with aqueous NaHCO3 solution, saturated aqueous NaCl solution and dried over anhydrous Na2SO4. The product was purified by silica gel flash chromatography using 2:1/acetone:hexanes as eluent. Yield: 1.11 g (68%). 1H NMR (400 MHz, METHANOL-D4) δ 1.40-1.49 (m, 2H), 1.52 (s, 9H), 1.60-1.65 (m, 2H), 1.67-1.77 (m, 1H), 1.96-2.06 (m, 3H), 2.11 (s, 3H), 2.15-2.23 (m, 1H), 4.28 (d, J=7.62 Hz, 2H), 7.35-7.39 (m, 1H), 7.40-7.44 (m, 1H), 7.85 (d, J=1.76 Hz, 1H).

reactant | N-(3-Amino-4-{[(4,4-difluorocyclohexyl)methyl]amino}phenyl)acetamide | 4.44 mmol, 1.32 g | NC=1C=C(C=CC1NCC1CCC(CC1)(F)F)NC(C)=O | C15H21F2N3O
reactant | Trimethylacetyl chloride | 4.88 mmol, 0.60 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.89 mmol, 108 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-{2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}acetamide | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)NC(C)=O | C20H27F2N3O
